* c:\users\sabarishmohan\esim-workspace\tc4008bp_test\tc4008bp_test.cir

.include tc4008bp_ic.sub
x1 net-_u10-pad9_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ net-_u11-pad2_ net-_u12-pad5_ net-_u12-pad4_ net-_u12-pad3_ net-_u12-pad2_ net-_u12-pad1_ net-_u10-pad10_ tc4008bp_ic
* u10  a4 b4 b3 a3 b2 a2 b1 a1 net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ adc_bridge_8
* u11  cin net-_u11-pad2_ adc_bridge_1
* u12  net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ cout s4 s3 s2 s1 dac_bridge_5
v1  a4 gnd pulse(0 5 0 0 0 5 10)
v2  b4 gnd pulse(5 0 0 0 0 5 10)
v3  b3 gnd pulse(0 5 0 0 0 5 10)
v4  a3 gnd pulse(5 0 0 0 0 5 10)
v5  b2 gnd pulse(0 5 0 0 0 5 10)
v6  a2 gnd pulse(0 5 0 0 0 5 10)
v7  b1 gnd pulse(5 0 0 0 0 5 10)
v8  a1 gnd pulse(0 5 0 0 0 5 10)
v9 cin gnd  dc 0
* u1  a4 plot_v1
* u2  b4 plot_v1
* u3  b3 plot_v1
* u4  a3 plot_v1
* u5  b2 plot_v1
* u6  a2 plot_v1
* u7  b1 plot_v1
* u8  a1 plot_v1
* u9  cin plot_v1
* u13  cout plot_v1
* u15  s4 plot_v1
* u16  s3 plot_v1
* u14  s1 plot_v1
* u17  s2 plot_v1
a1 [a4 b4 b3 a3 b2 a2 b1 a1 ] [net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ ] u10
a2 [cin ] [net-_u11-pad2_ ] u11
a3 [net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ ] [cout s4 s3 s2 s1 ] u12
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u12 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a4)
plot v(b4)
plot v(b3)
plot v(a3)
plot v(b2)
plot v(a2)
plot v(b1)
plot v(a1)
plot v(cin)
plot v(cout)
plot v(s4)
plot v(s3)
plot v(s1)
plot v(s2)
.endc
.end
